US06169090A
2-Acetyl-7-methoxyfuro[2,3-c]pyridine4-carboxylic acid (3,5-dichloropyridin-4-yl)amide
A solution of 4-amino-3,5-dichloropyridine (57 mg) in dry N,N-dimethylformamide (10 ml) was stirred at room temperature under an atmosphere of dry nitrogen. Sodium hydride (21 mg) was added and stirring continued for 45 minutes. 2-Acetyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (100 mg) was added and the resulting mixture stirred overnight. The solvent was removed in vacuo, the residue taken up in water (100 ml) and extracted with ethyl acetate (3×100 ml). The combined organic extracts were washed with water (100 ml) then brine (50 ml), dried over magnesium sulfate, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 50% hexane in ethyl acetate gave the title compound (12 mg) as a white solid.

reactant | 4-amino-3,5-dichloropyridine | 57 mg | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
reactant | Sodium hydride | 21 mg | [H-].[Na+]
reactant | 2-Acetyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 100 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)C(C)=O | C17H12N2O7
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Acetyl-7-methoxyfuro[2,3-c]pyridine4-carboxylic acid (3,5-dichloropyridin-4-yl)amide | 12 mg | ClC=1C=NC=C(C1NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)C(C)=O)Cl | C16H11Cl2N3O4
